US04793851
Preparation of compound 6,7a-dimethyl-perhydro-imidazo-[5,1-b]-thiazol-5,7-dione [compound No. 2]
By operating in like manner as is described in Example 1 and by starting from 2-methyl-thiazolidin-2-carboxylic acid and methyl isocyanate, the desired product was obtained as a white solid having a melting point of 67°-68° C.

reactant | 2-methyl-thiazolidin-2-carboxylic acid | CC1(SCCN1)C(=O)O | C5H9NO2S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 6,7a-dimethyl-perhydro-imidazo-[5,1-b]-thiazol-5,7-dione | CN1C(N2C(SCC2)(C1=O)C)=O | C7H10N2O2S
